US04663453
9-Bromo-6-(4-n-propyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A stirred mixture of 7.88 g (0.0250 mole) of 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one and 1200 ml of toluene was heated until a solution resulted. Then there was added 32.1 g (0.25 mole) of N-propylpiperazine, followed by 14.2 g (0.075 mole) of titanium tetrachloride. The mixture was refluxed for 3 hours, and then cooled to room temperature. The mixture was stirred with 500 ml of 2N sodium hydroxide solution for 15 minutes and the layers were separated. The aqueous phase was extracted with 300 ml of toluene. The toluene layers were combined, filtered, washed once with 2N sodium hydroxide solution, twice with water, dried over anhydrous sodium sulfate, and concentrated to an oily solid. The oily solid was dissolved in 25 ml of hot ethyl acetate, filtered, and allowed to crystallize first at room temperature, then at 0° C. to yield 3.20 g (30%) of product, mp 134°-136° C.

reactant | 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one | 0.0250 mole, 7.88 g | BrC1=CC2=C(N3C4=C(C(N2)=O)C=CC=C4CC3)C=C1 | C15H11BrN2O
reactant | N-propylpiperazine | 0.25 mole, 32.1 g | C(CC)N1CCNCC1 | C7H16N2
reactant | sodium hydroxide | 2N, 500 ml | [OH-].[Na+]
catalyst | titanium tetrachloride | 0.075 mole, 14.2 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 9-Bromo-6-(4-n-propyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 3.20 g, 30% | BrC1=CC2=C(N3C4=C(C(=N2)N2CCN(CC2)CCC)C=CC=C4CC3)C=C1 | C22H25BrN4
